US07141586B2
Solid potassium hydroxide (2.2 g, 39 mmol) and ethyl iodide (3.14 ml, 39 mmol) were added to a solution of 3-methoxybenzenethiol (5.0 g, 35 mmol) in ethanol (35 ml) (Caution—exotherm). The mixture was stirred for 72 h, then partitioned between water and ethyl acetate. The organic phase was dried over MgSO4 and the solvent removed under reduced pressure to give 1-(ethylsulfanyl)-3-methoxybenzene (5.9 g) as a yellow liquid.

reactant | potassium hydroxide | 39 mmol, 2.2 g | [OH-].[K+]
reactant | ethyl iodide | 39 mmol, 3.14 ml | C(C)I | C2H5I
reactant | 3-methoxybenzenethiol | 35 mmol, 5.0 g | COC=1C=C(C=CC1)S | C7H8OS
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1-(ethylsulfanyl)-3-methoxybenzene | 5.9 g | C(C)SC1=CC(=CC=C1)OC | C9H12OS
